US06566367B2
Dissolve 1,4-dioxaspiro[4.5]decan-8-amine (785 mg, 0.005 mol; see Liebigs (1990) Ann. Chem. 8:781-7) in CH2Cl2 and then add H2O (20 mL) followed by saturated NaHCO3 solution (50 mL). Add a toluene solution of phosgene (20% solution, 5 mL) to the reaction mixture and stir at room temperature for 1 hour. Dry the CH2Cl2 layer (Na2SO4) and concentrate under reduced pressure. Dissolve the resulting oil in dry toluene to produce a stock solution (˜0.2 M) of (1,4-dioxa-spiro[4.5]dec-8-yl)-carbamoyl chloride.

reactant | 1,4-dioxaspiro[4.5]decan-8-amine | 0.005 mol, 785 mg | O1CCOC12CCC(CC2)N | C8H15NO2
reactant | H2O | 20 mL | O | H2O
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | phosgene | 5 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1,4-dioxa-spiro[4.5]dec-8-yl)-carbamoyl chloride | ˜0.2 M | O1CCOC12CCC(CC2)NC(=O)Cl | C9H14ClNO3
